US08058269B2
Preparation of rac-6′-Chloro-3′-(3-chloro-benzyl)-6-methoxy-2′-oxo-2′,3′-dihydro-1′H-[1,3′]biindolyl-2-carboxylic acid methyl ester
To the solution of rac-6′-Chloro-3′-(3-chloro-benzyl)-6-methoxy-2′-oxo-2,3,2′,3′-tetrahydro-1′H-[1,3′]biindolyl-2-carboxylic acid methyl ester (0.65 g, 1.31 mmol) in 10 mL toluene was added DDQ (0.51 g, 2.23 mmol). The reaction mixture was stirred at room temperature for 6 hour. And the mixture was washed with water (3×10 mL). The organic solution was dried with Na2SO4 and concentrated in vacuo. The residue was purified with chromatography to give white solid. MS: 495 (M+H)+.

reactant | rac-6′-Chloro-3′-(3-chloro-benzyl)-6-methoxy-2′-oxo-2,3,2′,3′-tetrahydro-1′H-[1,3′]biindolyl-2-carboxylic acid methyl ester | 1.31 mmol, 0.65 g | COC(=O)C1N(C2=CC(=CC=C2C1)OC)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C26H22Cl2N2O4
reactant | DDQ | 2.23 mmol, 0.51 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | rac-6′-Chloro-3′-(3-chloro-benzyl)-6-methoxy-2′-oxo-2′,3′-dihydro-1′H-[1,3′]biindolyl-2-carboxylic acid methyl ester | COC(=O)C=1N(C2=CC(=CC=C2C1)OC)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C26H20Cl2N2O4
